US04696964
N,O-Dibenzylhydroxylamine
A solution of 25.0 g O-benzylbenzaldoxime in 100 ml of methanol is mixed with 3.0 g of sodium cyanoborohydride and a few mg of methyl orange indicator. Methanolic hydrochloric acid is added to keep the color of the reaction mixture pale pink (pH=3). After stirring at room temperature for 3 hours, 5.0 more grams of sodium cyanoborohydride is added and the reaction mixture (pH=3) is stirred at room temperature for 12 hours. The reaction mixture is alkalified with aqueous sodium hydroxide and then extracted with methylene chloride. The combined organic layer is washed with water, brine, dried (MgSO4) and evaporated to give the crude product. Liquid chromatography affords the title compound as a colorless liquid.

reactant | O-benzylbenzaldoxime | 25.0 g | C(C1=CC=CC=C1)ON=CC1=CC=CC=C1 | C14H13NO
reactant | sodium cyanoborohydride | 3.0 g | C(#N)[BH3-].[Na+]
reactant | methyl orange | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | N,O-Dibenzylhydroxylamine | C(C1=CC=CC=C1)NOCC1=CC=CC=C1 | C14H15NO
